US05686424
Using the procedure described in Example 5, a solution of L-proline-L-isoleucine benzylamide (164 mg, 0.51 mmol), and triethylamine (355 uL, 5.0 eq) in THF (2 mL), was treated with 180 mg (2.0 eq) of 1-chloro-2-(1-methyl-cyclohexyl)-2-oxoethane (prepared from 1-methyl-1-cyclohexanecarboxylic acid using the procedure described in example 1) to provide 183 mg (93%) of L-isoleucine, N-[1-(2-(1-methyl-cyclohexyl)-2-oxoethyl)-L-prolyl] benzylamide as a colorless residue.

reactant | L-proline L-isoleucine benzylamide | 0.51 mmol, 164 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 355 uL, 5.0 eq | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-2-(1-methyl-cyclohexyl)-2-oxoethane | 180 mg, 2.0 eq | ClCC(=O)C1(CCCCC1)C | C9H15ClO
reactant | 1-methyl-1-cyclohexanecarboxylic acid | CC1(CCCCC1)C(=O)O | C8H14O2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | L-isoleucine, N-[1-(2-(1-methyl-cyclohexyl)-2-oxoethyl)-L-prolyl] benzylamide | 183 mg, 93% | CC1(CCCCC1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C27H41N3O3
